US06133294
5,6-Dichloro-N-hydroxy-3-pyridinecarboximidamide
Hydroxylamine hydrochloride (2.6 g, 0.038 mol) was slurried in methanol (75 mL) and sodium methoxide (2.0 g, 0.037 mol) added. The mixture was stirred for half an hour and 5,6-dichloro-3-pyridinecarbonitrile (4.3 g, 0.025 mol) added. The mixture was stirred at room temperature overnight and filtered. The precipitate was washed with water and methanol and dried to give the desired product (4.2 g, 82%) as a white solid, MP 182-184° C.

reactant | Hydroxylamine hydrochloride | 0.038 mol, 2.6 g | Cl.NO
reactant | sodium methoxide | 0.037 mol, 2.0 g | C[O-].[Na+]
reactant | 5,6-dichloro-3-pyridinecarbonitrile | 0.025 mol, 4.3 g | ClC=1C=C(C=NC1Cl)C#N | C6H2Cl2N2
solvent | methanol | 75 mL | CO | CH4O
product | 5,6-Dichloro-N-hydroxy-3-pyridinecarboximidamide | 4.2 g, 82% | ClC=1C=C(C=NC1Cl)C(NO)=N | C6H5Cl2N3O
